US08791108B2
To a stirred solution of 0.9M KHMDS/THF (39.1 mL, 35.2 mmol) in THF (100 mL) at −78° C. was added a THF (50 mL) solution of ethyl 6-(2-ethoxy-2-oxoethyl)-7-iodo-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate (11.3 g, 27.1 mmol) over 5 min. After 30 min, a THF (50 mL) solution of 3-phenyl-2-(phenylsulfonyl)-1,2-oxaziridine (9.20 g, 35.2 mmol) was added to the red reaction mixture and stirred for additional 30 min at −78° C. Then, the resulting orange reaction mixture was quenched with sat. NH4Cl (50 mL), diluted with EtOAc (200 mL), washed with water (100 mL), brine (100 mL), dried (Na2SO4), filtered and concentrated to give solid. This solid was triturated with small amount of ethyl acetate and solids were filtered, washed with hexanes and dried under high vac to afford ethyl 6-(2-ethoxy-1-hydroxy-2-oxoethyl)-7-iodo-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate (7.3 g, 16.85 mmol, 62.2% yield) as light yellow solid. 1H NMR (500 MHz, CDCl3) δ: 7.33 (s, 1H), 5.75 (d, J=2.1 Hz, 1H), 4.52 (qd, J=7.1, 1.2 Hz, 2H), 4.37-4.30 (m, 2H), 3.57 (d, J=2.4 Hz, 1H), 2.63 (s, 3H), 1.48 (t, J=7.2 Hz, 3H), 1.27 (t, J=7.0 Hz, 3H). LCMS (M+H)=434.1.

reactant | KHMDS THF | 35.2 mmol, 0.9M, 39.1 mL | C[Si](C)(C)[N-][Si](C)(C)C.[K+].C1CCOC1
reactant | ethyl 6-(2-ethoxy-2-oxoethyl)-7-iodo-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate | 27.1 mmol, 11.3 g | C(C)OC(CC=1C(=NC=2N(C1I)N=C(C2)C(=O)OCC)C)=O | C14H16IN3O4
reactant | 3-phenyl-2-(phenylsulfonyl)-1,2-oxaziridine | 35.2 mmol, 9.20 g | C1(=CC=CC=C1)C1N(O1)S(=O)(=O)C1=CC=CC=C1 | C13H11NO3S
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | ethyl 6-(2-ethoxy-1-hydroxy-2-oxoethyl)-7-iodo-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate | 16.85 mmol, 7.3 g, 62.2% yield | C(C)OC(C(O)C=1C(=NC=2N(C1I)N=C(C2)C(=O)OCC)C)=O | C14H16IN3O5
